US06204264B1
(2) Ethyl 4-{[3-(dimethylamino)propyl]amino}-3-nitrobenzoate
N,N-Dimethy-1,3-propanediamine (1.41 g) was added to ethyl 4-chloro-3-nitrobenzoate (1.59 g) and stirred for 12 hours at 125° C. The reaction mixture, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution, water, and saturated brine successively, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (2.07 g) as brown oil.

reactant | N,N-Dimethy-1,3-propanediamine | 1.41 g | CN(CCCN)C | C5H14N2
reactant | ethyl 4-chloro-3-nitrobenzoate | 1.59 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-{[3-(dimethylamino)propyl]amino}-3-nitrobenzoate | 2.07 g | CN(CCCNC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])C | C14H21N3O4
